US06953857B2
(ii) 3-[2-(4-Chloro-phenyl)-ethoxy]-4-fluoro-benzoic acid methyl ester
0.5 g (2.94 mmol) of 4-Fluoro-3-hydroxy-benzoic acid methyl ester was dissolved in 30 ml of anhydrous tetrahydrofuran. To this solution was added 0.506 g (3.23 mmol) of 2-(4-chloro-phenyl)-ethanol, 2.93 g (equivalent to 8.8 mmol PPh3) of triphenylphosphine derivatized polystyrene and 1.53 g (8.8 mmol) of DEAD. The solution was shaken for 16 h at RT. The polymer was filtered off and washed with tetrahydrofuran. The solvent was removed under reduced pressure. The residue was taken-up in ethyl acetate/n-heptane (1/5) and the insoluble residue was removed by filtration. The solvent was removed under reduced pressure. The residue was chromatographed on silica gel eluting with ethyl acetate/n-heptane (1/5).

reactant | 4-Fluoro-3-hydroxy-benzoic acid methyl ester | 2.94 mmol, 0.5 g | COC(C1=CC(=C(C=C1)F)O)=O | C8H7FO3
reactant | 2-(4-chloro-phenyl)-ethanol | 3.23 mmol, 0.506 g | ClC1=CC=C(C=C1)CCO | C8H9ClO
reactant | triphenylphosphine | 8.8 mmol, 2.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 8.8 mmol, 1.53 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-[2-(4-Chloro-phenyl)-ethoxy]-4-fluoro-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)F)OCCC1=CC=C(C=C1)Cl)=O | C16H14ClFO3
